US04605668
2-Fluoro-3,4-diethoxyaniline (1.99 g) in toluene (20 ml) was dropwise added to a toluene solution containing 10 g of phosgene at 10° to 20° C. The resulting mixture was gradually heated and, after being refluxed for 30 minutes, cooled to room temperature. The solvent was removed by distillation under reduced pressure to give 2-fluoro-3,4-diethoxyphenyl isocyanate. The thus obtained crude substance was added to a toluene solution (50 ml) containing triethylamine (1.0 g) and isopropanol (1.0 g). The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate as the eluent to give isopropyl N-(2-fluoro-3,4-diethoxyphenyl)carbamate (Compound No. 1) (1.99 g) in a yield of 69.8%.

reactant | 2-Fluoro-3,4-diethoxyaniline | 1.99 g | FC1=C(N)C=CC(=C1OCC)OCC | C10H14FNO2
reactant | phosgene | 10 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-3,4-diethoxyphenyl isocyanate | FC1=C(C=CC(=C1OCC)OCC)N=C=O | C11H12FNO3
